US08541415B2
4-Chloro-N-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-quinoxalin-2-yl]-benzenesulfonamide
A solution of 4-Chloro-N-(3-chloro-quinoxalin-2-yl)-benzenesulfonamide (354 mg, 1 mmol) in xylenes (20 mL) was treated with 6-amino-1,4-benzodioxane (2 mmol, 246 μL), and the reaction mixture was refluxed under N2 for 5 h. Removal of the solvent in vacuo gave the desired product which was further purified by column chromatography (hexanes/EtOAc 9:1) to give yellow crystals. MP=257-258° C., Yield 61%, TLC-Rf=0.3 (hexanes/EtOAc 3:1), HPLC/MS: [M+H]+ m/z 469. 1H NMR (CDCl3, 600 MHz): δ 4.31 (m, 2H), 6.88 (d, J=9.0 Hz, 1H), 7.15 (dd, J=9.0 Hz, 2.4 Hz, 1H), 7.29 (dd, J=1.2 Hz, 1H), 7.36 (td, J=7.8 Hz, 1.2 Hz, 1H), 7.42 (td, J=7.8 Hz, 1.2 Hz, 1H), 7.53 (d, J=9 Hz, 2H), 7.70 (m, 2H), 7.98 (d, J=8.4 Hz, 2H), 8.19 (br.s, 1H), 11.88 (br.s, 1H). 13C NMR (CDCl3, 150 MHz): δ 64.34, 64.53, 109.36, 113.54, 116.18, 117.28, 124.16, 125.87, 126.60, 126.81, 127.89, 129.38, 131.99, 134.18, 139.41, 140.14, 140.28, 141.24, 143.43, 144.08. HRMS: Calcd. for C22H18ClN4O4S [M+H]+ m/z 469.0732, Observed 469.0704.

reactant | 4-Chloro-N-(3-chloro-quinoxalin-2-yl)-benzenesulfonamide | 1 mmol, 354 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1Cl | C14H9Cl2N3O2S
reactant | 6-amino-1,4-benzodioxane | 2 mmol, 246 μL | NC1=CC2=C(OCCO2)C=C1 | C8H9NO2
product | 4-Chloro-N-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-quinoxalin-2-yl]-benzenesulfonamide | Yield 61% | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC2=C(OCCO2)C=C1 | C22H17ClN4O4S
